US07183304B2
To a solution of the title D compound, (R)-1-(4-mercapto-benzenesulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid (0.56 g, 1.67 mmol) in dioxane (8 mL) is added 1N aqueous sodium hydroxide (3.4 mL) and water (2 mL) at room temperature. The resulting solution is treated dropwise with a solution of 4-chloromethyl-5-methyl-2-phenyl-oxazole (0.423 g, 2.04 mmol) in dioxane (4 mL). After stirring 1.5 hours, the reaction mixture is concentrated to near dryness in vacua. The residue is taken into water, the aqueous phase is washed with ether, acidified with 2N aqueous hydrochloric acid and extracted into ethyl acetate. The combined organic phases are washed with water, brine and dried over sodium sulfate. The organic phase is concentrated in vacuo and dried overnight at high vacuum to give 0.68 g of (R)-1-[4-(5-methyl-2-phenyl-oxazol-4-ylmethylsulfanyl)-benzenesulfonyl]-2,3-dihydro-1H-indole-2-carboxylic acid as gum: [M−1]−=504.9.

reactant | (R)-1-(4-mercapto-benzenesulfonyl)-2,3-dihydro-1H-indole-2-carboxylic acid | 1.67 mmol, 0.56 g | SC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC2=CC=CC=C12)C(=O)O | C15H13NO4S2
reactant | sodium hydroxide | 1N, 3.4 mL | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 2.04 mmol, 0.423 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (R)-1-[4-(5-methyl-2-phenyl-oxazol-4-ylmethylsulfanyl)-benzenesulfonyl]-2,3-dihydro-1H-indole-2-carboxylic acid | 0.68 g | CC1=C(N=C(O1)C1=CC=CC=C1)CSC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC2=CC=CC=C12)C(=O)O | C26H22N2O5S2
